US07544702B2
Dess Martin periodinane (60 mg, 0.14 mmol) was added to a stirred solution of 2,4-dichloro-N-{4-(cyclopropyl-hydroxy-methyl)-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-benzenesulfonamide (74 mg, 0.12 mmol) in dichloromethane (5 ml) and the mixture stirred at room temperature overnight under nitrogen. The reaction was diluted with ethyl acetate (30 ml), washed with NaHCO3 solution (20 ml), dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash column chromatography using ethyl acetate 2/3 hexane as eluent to give 2,4-dichloro-N-{4-cyclopropanecarbonyl-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-benzenesulfonamide as a yellow solid (38 mg, 51%). 1H NMR (CDCl3): 8.32 (1H, s, py); 8.08 (1H, d, Ar); 7.57 (2H, d, Ar); 7.46 (1H, s, py); 7.36 (1H, d, Ar); 7.27 (2H, d, Ar); 2.89 (4H, m, 2×CH2 pip); 2.17 (1H, m, COCH); 1.54 (4H, m, 2×CH2 pip); 1.33 (2H, m, CH2 pip); 0.82 (4H, m, 2×CH2 cprop). HPLC (Luna 2, Gradient 5): rt=6.47 minutes. LCMS rt=7.24 minutes, 627 (M+H)+. By a similar method using the appropriate starting materials the following can be prepared:

reactant | Dess Martin periodinane | 0.14 mmol, 60 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2,4-dichloro-N-{4-(cyclopropyl-hydroxy-methyl)-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-benzenesulfonamide | 0.12 mmol, 74 mg | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)NC1=NC=C(C(=C1)C(O)C1CC1)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C26H27Cl2N3O5S3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2,4-dichloro-N-{4-cyclopropanecarbonyl-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-benzenesulfonamide | 38 mg, 51% | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)NC1=NC=C(C(=C1)C(=O)C1CC1)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C26H25Cl2N3O5S3
